US08084448B2
C. 4-Phenylmethanesulfonylbutan-1-ol
To a solution of acetic acid 4-phenylmethanesulfonylbutyl ester (1.6 g, 5.93 mmol) in MeOH (20 mL) is added NaOH (6.0 ml of 1.0N) and the mixture is stirred at RT for 90 min. The MeOH is removed under reduced pressure and the aqueous extracted with EtOAc. The organic solution is dried over magnesium sulfate and the solvent is removed under reduced pressure. The resulting solid is triturated with hexane to give the title compound as a white solid.

reactant | acetic acid 4-phenylmethanesulfonylbutyl ester | 5.93 mmol, 1.6 g | C1(=CC=CC=C1)CS(=O)(=O)CCCCOC(C)=O | C13H18O4S
reactant | NaOH | 1.0N, 6.0 ml | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 4-Phenylmethanesulfonylbutan-1-ol | C1(=CC=CC=C1)CS(=O)(=O)CCCCO | C11H16O3S
